US05276168
B. 3,4-Dihydro-2,2-dimethyl-4-[2-oxo-3-(phenylmethyl)-1-imidazolidinyl]-2H-1-benzopyran-6-carbonitrile
To a solution of N-(6-cyano-2,2-dimethyl-3,4-dihydro-2H-1-benzopyran-4-yl)-N'-benzylethylenediamine (0.91 g, 2.71 mmole, from Example 22, part A) and 4-nitrophenyl chloroformate (0.57 g, 2.85 mmole) in methylene chloride (22.5 ml) cooled to 0° C. was added pyridine (0.27 g, 3.39 mmole). The reaction mixture was stirred at room temperature for 24 hours, diluted with methylene chloride and washed with 5% aqueous HCl solution, 2N NaOH solution and saturated NaCl solution. The extract was dried over MgSO4 and evaporated in vacuo to obtain 1.32 g of an orange gum. The crude product was chromatographed on silica eluting with hexane/ethyl acetate (3:2) to obtain 0.65 g (66%) of the title compound as a colorless amorphous solid, m.p.=45-48° C. 1H NMR (CDCl3) δ 7.51-7.39 (m, 7H), 6.93 (d, J=9.38 Hz, 1H), 5.43 (dd, J=7.03 and 11.14 Hz, 1H), 4.55 (m, 2H), 3.36-3.20 (m, 3H), 3.05 (m, 1H), 1.99 (m, 2H), 1.59 (s, 3H), 1.45 (S, 3H); 13C NMR (CDCl3) δ 160.77, 158.29, 136.70, 132.49, 131.66, 128.60, 128.03, 127.48, 121.38, 119.16, 118.61, 103.29, 76.94, 48.17, 45.15, 41.90, 37.26, 34.96, 34.67, 29.75, 24.01; MS: (M+H)+ @362.

reactant | N-(6-cyano-2,2-dimethyl-3,4-dihydro-2H-1-benzopyran-4-yl)-N'-benzylethylenediamine | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)NCCNCC2=CC=CC=C2)C1 | C21H25N3O
reactant | 4-nitrophenyl chloroformate | 2.85 mmole, 0.57 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 3.39 mmole, 0.27 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 22.5 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Dihydro-2,2-dimethyl-4-[2-oxo-3-(phenylmethyl)-1-imidazolidinyl]-2H-1-benzopyran-6-carbonitrile | 1.32 g | CC1(OC2=C(C(C1)N1C(N(CC1)CC1=CC=CC=C1)=O)C=C(C=C2)C#N)C | C22H23N3O2
